US09163008B2
To a mixture of (S)-6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxamide (0.272 g, 1.01 mmol) in dioxane (5 mL) was added 2-(4-(4-chloro-2-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.387 g, 1.11 mmol), 2M aqueous Na2CO3 (1.0 mL, 2.0 mmol) and PdCl2(dppf) (0.044 g, 0.054 mmol). The reaction vessel was flushed with argon, sealed, and heated at 100° C. overnight. After cooling, the reaction mixture was evaporated in vacuo and the residue chromatographed over silica gel with 25-100% acetone in hexanes. The product fractions were evaporated in vacuo and the residue further chromatographed using reverse-phase chromatography with a 40-70% acetonitrile in water (+0.1% TFA) gradient. The product fractions were pooled and lyophilized. The residue was triturated with acetonitrile (3 mL). The solid was filtered off, washed with acetonitrile (1×1 mL), and dried under vacuum at 40° C. to give (S)-6-(2-carbamoylpyrrolidin-1-yl)-2-(4-(4-chloro-2-fluorophenoxy)phenyl)pyrimidine-4-carboxamide as an off-white powder (0.152 g, 0.333 mmol, 33% yield). 1H NMR (400 MHz, DMSO-d6): Exists as a ˜70:30 ratio of rotamers: 8.60-8.52 (2H, m), 8.35 (1H, s), 7.80 (1H, s), 7.73-7.67 (1.3H, m), 7.51 (0.7H, s), 7.38-7.28 (2H, m), 7.23 (0.3H, s), 7.09 (0.6H, d, J=8.3 Hz), 7.04 (1.4H, d, J=8.8 Hz), 7.00-6.94 (1.4H, m), 6.77 (0.3H, s), 4.58-4.52 (0.7H, m), 4.33-4.27 (0.3H, m), 3.90-3.81 (0.3H, m), 3.79-3.70 (0.3H, m), 3.70-3.62 (0.7H, m), 3.56-3.47 (0.7H, m), 2.38-2.17 (1H, m), 2.11-1.91 (3H, m). LC/MS: m/z=456.1 [M+H]+.

reactant | (S)-6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxamide | 1.01 mmol, 0.272 g | C(N)(=O)[C@H]1N(CCC1)C1=CC(=NC(=N1)Cl)C(=O)N | C10H12ClN5O2
reactant | 2-(4-(4-chloro-2-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.11 mmol, 0.387 g | ClC1=CC(=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1)F | C18H19BClFO3
reactant | Na2CO3 | 2.0 mmol, 2M, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.054 mmol, 0.044 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-6-(2-carbamoylpyrrolidin-1-yl)-2-(4-(4-chloro-2-fluorophenoxy)phenyl)pyrimidine-4-carboxamide | 0.333 mmol, 0.152 g, 33% yield | C(N)(=O)[C@H]1N(CCC1)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=C(C=C(C=C1)Cl)F)C(=O)N | C22H19ClFN5O3
